US04735959
An amount of 1.6 ml of conc. sulfuric acid was added in small drops to a mixture of 2 gm (9.74 m mol) of 1-(2-piperidino-phenyl)-ethanol and 4 gm (21.1 m mol) of 4-cyanomethylbenzoic acid ethyl ester under stirring and cooling with ice by keeping the internal temperature at 35° to 40° C. Subsequently, the mixture was heated for 2.5 hours in a bath of 80° C., a further 2 gm (10.5 m mol) of 4-cyanomethyl benzoic acid ethyl ester and 0.8 ml of conc. sulfuric acid were added, and heating was continued for one hour at 80° C. and for three hours at 100° C. After that time no starting alcohol could be detected in a thin layer chromatogram. After cooling to 20° C. the mixture was layered with ethyl acetate, and under stirring and cooling ice water was added. After extraction several times with ethyl acetate, the organic extract was dried over sodium sulfate, filtered, and evaporated in vacuo. The evaporation residue was purified by column chromatography on silica gel (toluene/acetone=10:1). From the pre-fractions 0.5 gm of 2-piperidino-styrol was isolated.

reactant | sulfuric acid | 1.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1-(2-piperidino-phenyl)-ethanol | 2 gm | N1(CCCCC1)C1=C(C=CC=C1)C(C)O | C13H19NO
reactant | 4-cyanomethylbenzoic acid ethyl ester | 4 gm | C(C)OC(C1=CC=C(C=C1)CC#N)=O | C11H11NO2
reactant | 4-cyanomethyl benzoic acid ethyl ester | 2 gm | C(C)OC(C1=CC=C(C=C1)CC#N)=O | C11H11NO2
reactant | sulfuric acid | 0.8 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-piperidino-styrol | 0.5 gm | N1(CCCCC1)C1=C(C=C)C=CC=C1 | C13H17N
